US05242925
4.7 g of 6-[4-(4-(1-benzenesulfonyl-5-bromoindol-3-yl)butyl)piperazino]-1,4-benzodioxane is boiled for 16 hours with 1.5 g of KOH in aqueous ethanol solution, worked up in the conventional manner and gives 6-[4-(4-(5-bromoindol-3-yl)butyl)piperazino]-1,4-benzodioxane.

reactant | 6-[4-(4-(1-benzenesulfonyl-5-bromoindol-3-yl)butyl)piperazino]-1,4-benzodioxane | 4.7 g | C1(=CC=CC=C1)S(=O)(=O)N1C=C(C2=CC(=CC=C12)Br)CCCCN1CCN(CC1)C1=CC2=C(OCCO2)C=C1 | C30H32BrN3O4S
reactant | KOH | 1.5 g | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
product | 6-[4-(4-(5-bromoindol-3-yl)butyl)piperazino]-1,4-benzodioxane | BrC=1C=C2C(=CNC2=CC1)CCCCN1CCN(CC1)C1=CC2=C(OCCO2)C=C1 | C24H28BrN3O2
